US08957070B2
N-Methyl-N-[4-methyl-2-(1,3-thiazol-2-yl)-1H-indol-7-yl]thiophene-2-sulfonamide
A mixed solution of 4-methyl-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carbothioamide (0.20 g), 1-bromo-2,2-diethoxyethane (0.23 mL) and N,N-dimethylacetamide (10 ml) was stirred at 100° C. for 6 hr. The reaction solution was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=25:75-35:65), and the obtained oil was crystallized from ethyl acetate-hexane to give the title compound (92 mg, yield 43%) as pale-yellow prism crystals. melting point 159-160° C.

reactant | 4-methyl-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carbothioamide | 0.20 g | CC1=C2C=C(NC2=C(C=C1)N(S(=O)(=O)C=1SC=CC1)C)C(N)=S | C15H15N3O2S3
reactant | 1-bromo-2,2-diethoxyethane | 0.23 mL | BrCC(OCC)OCC | C6H13BrO2
reactant | N,N-dimethylacetamide | 10 ml | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-Methyl-N-[4-methyl-2-(1,3-thiazol-2-yl)-1H-indol-7-yl]thiophene-2-sulfonamide | 92 mg, yield 43% | CN(S(=O)(=O)C=1SC=CC1)C=1C=CC(=C2C=C(NC12)C=1SC=CN1)C | C17H15N3O2S3
